US09290506B2
To a stirred suspension of D-proline ((R)-29, 13.955 g, 120.0 mmol) and potassium carbonate (K2CO3, 33.17 g, 240.0 mmol, 2.0 equiv) in anhydrous methanol (MeOH, 240 mL, 5925 mmol) at 0° C. was added ethyl chloroformate (28.4 mL, 288 mmol, 2.4 equiv) at room temperature. The resulting reaction mixture was then stirred at room temperature for 18 h. When LCMS showed the reaction was deemed complete, the solvent was removed under reduced pressure. The resulting residue was then treated with water (80 mL) and saturated aqueous NaHCO3 (80 mL) before being extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine, dried over magnesium sulfate (MgSO4), filtered, and concentrated under reduced pressure to give the pure (2R)-1-ethyl 2-methyl pyrrolidine-1,2-dicarboxylate ((R)-30, 18.792 g, 24.14 g theoretical, 77.8% yield) as a colorless volatile oil. For (R)-30: 1H NMR (CDCl3, 400 MHz) δ ppm 4.35 (dd, 0.5H, J=8.7, 3.5 Hz), 4.28 (dd, 0.5H, J=8.7, 3.7 Hz), 4.13 (m, 2H), 3.72 (s, 1.5H), 3.70 (s, 1.5H), 3.59-3.41 (m, 2H), 2.20 (m, 1H), 2.01-1.86 (m, 3H), 1.25 (t, 1.5H, J=7.1 Hz), 1.18 (t, 1.5H, J=7.1 Hz); C9H15NO4(MW, 201.22), LCMS (EI) m/e 201.9 (M++H).

reactant | D-proline | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 240.0 mmol, 33.17 g, 2.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 5925 mmol, 240 mL | CO | CH4O
reactant | ethyl chloroformate | 288 mmol, 28.4 mL, 2.4 equiv | ClC(=O)OCC | C3H5ClO2
product | (2R)-1-ethyl 2-methyl pyrrolidine-1,2-dicarboxylate | 77.8% yield | N1([C@H](CCC1)C(=O)OC)C(=O)OCC | C9H15NO4
